### PR TITLE
refactor(ToMathlib/HardyLittlewood): generalise the maximal operator to functions in any codomain with an enorm

### PR DESCRIPTION
**Pull request by grunweg**
Right now, the Hardy-Littlewood maximal operator is only defined for functions with target a `NormedAddCommGroup`, in particular excluding functions mapping into `ENNReal`. This is not necessary --- in fact, the definition generalises verbatim to any codomain with an `ENorm`. We
- generalise the definition accordingly (a free change), and
- generalise the theorems about the maximal function having strong resp. weak type to codomains with a continuous enorm.

After generalising the definition of sub-linearity in #628 (also essentially free), the proofs only needed very minor changes. Some lemmas require hypotheses about the enorm being continuous; a few also require compatibility with scalar multiplication.
Two or three lemma statements are changed from norms to enorms, which was generally straightforward.

### CODE REVIEW

File: Carleson/ToMathlib/HardyLittlewood.lean [hunk 1]
```diff
@@ -305,32 +309,34 @@ public theorem hasStrongType_maximalFunction
   rw [eLpNorm_enorm_rpow _ (by positivity), ENNReal.ofReal_inv_of_pos cp₁p,
     ENNReal.ofReal_coe_nnreal, ← div_eq_mul_inv, ← ENNReal.coe_div p₁n]
   calc
-    _ ≤ (CMB A (p₂ / p₁) * eLpNorm (fun y ↦ ‖v y‖ ^ (p₁ : ℝ)) (p₂ / p₁) μ) ^ p₁.toReal⁻¹ := by
+    _ ≤ (CMB A (p₂ / p₁) * eLpNorm (fun y ↦ ‖v y‖ₑ ^ (p₁ : ℝ)) (p₂ / p₁) μ) ^ p₁.toReal⁻¹ := by
       apply ENNReal.rpow_le_rpow _ (by positivity)
-      convert (hasStrongType_maximalFunction_one (μ := μ) _ (fun x ↦ ‖v x‖ ^ (p₁ : ℝ)) _).2
+      convert! (hasStrongType_maximalFunction_one (μ := μ) _ (fun x ↦ ‖v x‖ₑ ^ (p₁ : ℝ)) _).2
       · rw [ENNReal.coe_div p₁n]
+      · exact ENormedSpace.enormSMulClass -- TODO: infer_instance doesn't fire
```
Comment (grunweg) [inline Carleson/ToMathlib/HardyLittlewood.lean]: This part of the diff is slightly sad. One solution is to delete `ENormedSpace` entirely (see #629), and/or make the `ENormSMulClass` the main instance.

**Comment by grunweg** [comment]
I'm going to merge this PR now because I urgently would like to share a version of the paper including this. I'm very happy to address any post-merge review comment (e.g. by @fpvandoorn).
